US07989445B2
tert-Butyl [2-[4-(1-hydroxyethyl)phenyl]ethyl]carbamate (606 mg) was dissolved in dichloromethane (20 ml), triethylamine (0.38 ml) and then methanesulfonyl chloride (0.195 ml) were added at 0° C., and the mixture was stirred for 4 hr. The reaction mixture was diluted with dichloromethane, and washed with saturated aqueous sodium hydrogen carbonate solution and then saturated brine. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure to give 1-[4-[2-[(tert-butoxycarbonyl)amino]ethyl]phenyl]ethyl methanesulfonate. The obtained compound, (3S)-3-fluoropyrrolidine hydrochloride (287 mg) and N,N-diisopropylethylamine (1.18 g) were mixed with DMF (10 ml), and the mixture was stirred at 50° C. for 48 hr. The reaction mixture was diluted with ethyl acetate, and washed with water and then saturated brine. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1 (volume ratio)→ethyl acetate→ethyl acetate:methanol=9:1 (volume ratio)) to give tert-butyl [2-[4-[1-[(3S)-3-fluoropyrrolidin-1-yl]ethyl]phenyl]ethyl]carbamate (133 mg) as a crude oil.

reactant | tert-Butyl [2-[4-(1-hydroxyethyl)phenyl]ethyl]carbamate | 606 mg | OC(C)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C15H23NO3
reactant | triethylamine | 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.195 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[4-[2-[(tert-butoxycarbonyl)amino]ethyl]phenyl]ethyl methanesulfonate | CS(=O)(=O)OC(C)C1=CC=C(C=C1)CCNC(=O)OC(C)(C)C | C16H25NO5S
